US06268387B1
3-[3-(4-Chloro-3-trifluoromethylphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.0 mmol) and 4-chloro-3-(trifluoromethyl)phenyl isothiocyanate (0.961 g, 4.0 mmol). Trituration in hexanes/ethyl acetate (3:2) gave the product (1.91 g); m.p. 172-173° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.0 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isothiocyanate | 4.0 mmol, 0.961 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 3-[3-(4-Chloro-3-trifluoromethylphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 1.91 g | ClC1=C(C=C(C=C1)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S)C(F)(F)F | C22H17ClF3N3O2S
